US09371314B2
To the stirring mixture of methyl 6-amino-5-[5-({[(3-methylphenyl)amino]carbonyl}amino)-1-benzothien-2-yl]nicotinate (420 mg, 0.972 mmol, 1 eq) in MeOH—H2O (3:1, 20 mL) at room temperature was added potassium hydroxide pellets (272 mg, 5 eq) and the reaction mixture was stirred at 65° C. for total of two hours, at which time the reaction mixture became a clear yellow solution. The solution was concentrated under reduced pressure to remove most part of methanol. The mixture was then cooled in an ice-bath, concentrated hydrochloride was added dropwise, and the pH was adjusted to about 3. After the mixture was stirred for about another 30 minutes, it was filtered through a Buchner funnel, rinsed with water, and 6-amino-5-[5-({[(3-methylphenyl)amino]carbonyl}amino)-1-benzothien-2-yl]nicotinic acid was obtained as a yellow solid in quantitative yield.

reactant | methyl 6-amino-5-[5-({[(3-methylphenyl)amino]carbonyl}amino)-1-benzothien-2-yl]nicotinate | 0.972 mmol, 420 mg, 1 eq | NC1=NC=C(C(=O)OC)C=C1C=1SC2=C(C1)C=C(C=C2)NC(=O)NC2=CC(=CC=C2)C | C23H20N4O3S
reactant | potassium hydroxide | [OH-].[K+]
solvent | MeOH—H2O | 20 mL | CO.O
product | 6-amino-5-[5-({[(3-methylphenyl)amino]carbonyl}amino)-1-benzothien-2-yl]nicotinic acid | quantitative yield | NC1=NC=C(C(=O)O)C=C1C=1SC2=C(C1)C=C(C=C2)NC(=O)NC2=CC(=CC=C2)C | C22H18N4O3S
